US07842713B2
4-(3-Fluoro-4-methanesulfonyl-phenoxy)-2-hydroxymethyl-2-methyl-2,3-dihydro-benzofuran-6-carboxylic acid (5-methyl-pyridin-2-yl)-amide
The title compound was prepared in a similar manner as described for Example 200, from 4-(3-fluoro-4-methanesulfonyl-phenoxy)-2-hydroxymethyl-2-methyl-2,3-dihydro-benzofuran-6-carboxylic acid tert-butyl ester (232a) and 2-amino-5-picoline. 1H NMR (400 MHz, CDCl3) δ 8.39 (s, 1 H) 8.22 (d, J=8.59 Hz, 1 H) 8.12 (d, J=2.02 Hz, 1 H) 7.93 (t, J=8.46 Hz, 1 H) 7.58 (dd, J=8.34, 2.02 Hz, 1 H) 7.19 (d, J=1.26 Hz, 1 H) 7.13 (d, J=1.26 Hz, 1 H) 6.88 (dd, J=8.84, 2.27 Hz, 1 H) 6.82 (dd, J=10.86, 2.27 Hz, 1 H) 3.76 (d, J=5.56 Hz, 1 H) 3.64 (d, J=7.33 Hz, 1 H) 3.21 (s, 3 H) 2.81 (d, J=16.67 Hz, 1 H) 2.33 (s, 3 H) 1.97 (d, J=1.52 Hz, 1 H) 1.47 (s, 3 H); LCMS for C24H23FN2O6S m/z 487.00 (M+H+).

reactant | 4-(3-fluoro-4-methanesulfonyl-phenoxy)-2-hydroxymethyl-2-methyl-2,3-dihydro-benzofuran-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=CC2=C(CC(O2)(C)CO)C(=C1)OC1=CC(=C(C=C1)S(=O)(=O)C)F | C22H25FO7S
reactant | 2-amino-5-picoline | NC1=NC=C(C=C1)C | C6H8N2
product | 4-(3-Fluoro-4-methanesulfonyl-phenoxy)-2-hydroxymethyl-2-methyl-2,3-dihydro-benzofuran-6-carboxylic acid (5-methyl-pyridin-2-yl)-amide | CC=1C=CC(=NC1)NC(=O)C1=CC2=C(CC(O2)(C)CO)C(=C1)OC1=CC(=C(C=C1)S(=O)(=O)C)F | C24H23FN2O6S
